US07915424B2
5-(2-Chlorophenylethynyl)-nicotinonitrile
Add bis(triphenylphosphine)palladium (II) dichloride (63.2 mg, 0.090 mmol), copper (I) iodide (34.3 mg, 0.180 mmol), and 5-ethynylnicotinonitrile (242 mg, 1.89 mmol), (prepared essentially as described in PREPARATION 4), to a solution of 1-chloro-2-iodobenzene (0.22 mL, 1.77 mmol) in triethylamine (3.60 mL, 25.8 mmol) and heat to 70° C. in a sealed tube for 1.5 h. Cool to room temperature and dilute with ethyl acetate. Wash with a saturated aqueous solution of sodium chloride, dry (sodium sulfate), filter and concentrate. Purify the residue by silica gel chromatography, eluting with a gradient from 95:5 to 80:20 (90:10 hexanes:ethyl acetate):dichloromethane, to give the title compound as a yellow solid. Further purify the title compound by recrystallizing from cyclohexane (20 mL) to give a white solid (95 mg, 22%).

reactant | 5-ethynylnicotinonitrile | 1.89 mmol, 242 mg | C(#C)C=1C=NC=C(C#N)C1 | C8H4N2
reactant | 1-chloro-2-iodobenzene | 1.77 mmol, 0.22 mL | ClC1=C(C=CC=C1)I | C6H4ClI
reactant | triethylamine | 25.8 mmol, 3.60 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.090 mmol, 63.2 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.180 mmol, 34.3 mg | [Cu]I
product | 5-(2-Chlorophenylethynyl)-nicotinonitrile | ClC1=C(C=CC=C1)C#CC=1C=NC=C(C#N)C1 | C14H7ClN2
